US04452851
To a solution of benzhydryl 7-[2-(6-formamidopyridin-2-yl)-2-tert-butoxycarbonylmethoxyiminoacetamido]-3-ethylthio-3-cephem-4-carboxylate (syn isomer, 2.5 g) in methanol (100 ml) and tetrahydrofuran (25 ml) was added conc. hydrochloric acid (1.5 ml). The solution was stirred for 90 minutes at 30° to 35° C. The resultant solution was adjusted to pH 5.0 with a saturated aqueous solution of sodium bicarbonate and then methanol was evaporated under reduced pressure. The residual oil was dissolved in ethyl acetate. The ethyl acetate layer was washed with a saturated aqueous solution of sodium chloride, and dried over magnesium sulfate. The solvent was evaporated under reduced pressure to give benzhydryl 7-[2-(6-aminopyridin-2-yl)-2-tert-butoxycarbonylmethoxyiminoacetamido]-3-ethylthio-3-cephem-4-carboxylate (syn isomer, 2.4 g), mp. 121° to 128° C. (dec.).

reactant | benzhydryl 7-[2-(6-formamidopyridin-2-yl)-2-tert-butoxycarbonylmethoxyiminoacetamido]-3-ethylthio-3-cephem-4-carboxylate | 2.5 g | C(=O)NC1=CC=CC(=N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CC)C(=S)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=NOCC(=O)OC(C)(C)C | C36H37N5O7S2
reactant | hydrochloric acid | 1.5 ml | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 100 ml | CO | CH4O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | benzhydryl 7-[2-(6-aminopyridin-2-yl)-2-tert-butoxycarbonylmethoxyiminoacetamido]-3-ethylthio-3-cephem-4-carboxylate | 2.4 g | NC1=CC=CC(=N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CC)C(=S)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=NOCC(=O)OC(C)(C)C | C35H37N5O6S2
